US07317125B2
Preparation of benzoic acid N′-[2-(2-bromo-4-fluoro-phenoxy)-acetyl]-N′-isopropyl-hydrazide
A solution of (2-bromo-4-fluoro-phenoxy)-acetic acid (2.00 g, 8.03 mmol) and benzoic acid N′-isopropyl-hydrazide (1.72 g, 9.63 mmol) in DMF (20 mL) was treated with diisopropylethyl amine (3.5 mL, 20.07 mmol) and bromotripyrrolidinophosphonium hexafluorophosphate (PyBroP, 5.62 g, 12.04 mmol) at room temperature overnight. The reaction mixture was partitioned between 1N HCl and ethyl acetate. The organic layer was successively washed with saturated sodium bicarbonate and brine, then dried over sodium sulfate, filtered and concentrated. The crude was absorbed on silica and purified on a silica gel column with a 20-30% ethyl acetate/hexanes gradient to afford the product as a white crystalline solid (2.29 g, 70%).

reactant | (2-bromo-4-fluoro-phenoxy)-acetic acid | 8.03 mmol, 2.00 g | BrC1=C(OCC(=O)O)C=CC(=C1)F | C8H6BrFO3
reactant | benzoic acid N′-isopropyl-hydrazide | 9.63 mmol, 1.72 g | C(C)(C)NNC(C1=CC=CC=C1)=O | C10H14N2O
reactant | diisopropylethyl amine | 20.07 mmol, 3.5 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | bromotripyrrolidinophosphonium hexafluorophosphate | 12.04 mmol, 5.62 g | F[P-](F)(F)(F)(F)F.Br[P+](N1CCCC1)(N1CCCC1)N1CCCC1
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | benzoic acid N′-[2-(2-bromo-4-fluoro-phenoxy)-acetyl]-N′-isopropyl-hydrazide | 2.29 g, 70% | BrC1=C(OCC(=O)N(NC(C2=CC=CC=C2)=O)C(C)C)C=CC(=C1)F | C18H18BrFN2O3
